US07427613B2
BuLi (1.55 M in hexane, 14.7 mL, 22.7 mmol) was added to a sol. of 1-bromo-2-(dimethoxymethyl)benzene (5.00 g, 21.6 mmol) in Et2O (50 mL). The mixture was stirred for 30 min at −78 ° C. and MgBr2.Et2O (5.87 g, 22.7 mmol) was added. The mixture was allowed to warm up to 0° C. over 15 min and CuI (420 mg, 2.16 mmol) was added. The mixture was stirred at 0° C. for 5 min and allyl bromide (1.92 mL, 22.7 mmol) was added. The mixture was stirred overnight while warming up to rt. Aq. 1M HCl (1 mL) was added and the mixture was diluted with Et2O, and washed with aq. 1M HCl (1×). The org. Extracts were dried over MgSO4, filtered, and the solvents were removed under reduced pressure. The residue was dissolved in acetone (20 mL) and water (10 mL), and TosOH (cat. amount) was added. The mixture was stirred for 5 h at rt, and the solvents were partially removed under reduced pressure. The residue was diluted with Et2O, and washed with aq. 1M HCl (1×), and aq. sat. NaHCO3 (1×). The org. extracts were dried over MgSO4, filtered, and the solvents were removed under reduced pressure. Purification of the residue by FC (Et2O/petroleum ether 1:49→24:1) yielded 2-allylbenzaldehyde (1.06 g, 34%). This compound was transformed into the title compound following typical procedure J with cyclopropylamine.

reactant | BuLi | 22.7 mmol, 1.55 M, 14.7 mL | [Li]CCCC
reactant | 1-bromo-2-(dimethoxymethyl)benzene | 21.6 mmol, 5.00 g | BrC1=C(C=CC=C1)C(OC)OC | C9H11BrO2
reactant | MgBr2 | [Mg+2].[Br-].[Br-]
reactant | allyl bromide | 22.7 mmol, 1.92 mL | C(C=C)Br | C3H5Br
reactant | HCl | 1M, 1 mL | Cl | ClH
solvent | Et2O | 50 mL | CCOCC | C4H10O
catalyst | CuI | 2.16 mmol, 420 mg | [Cu]I
solvent | Et2O | 22.7 mmol, 5.87 g | CCOCC | C4H10O
product | 2-allylbenzaldehyde | 1.06 g, 34% | C(C=C)C1=C(C=O)C=CC=C1 | C10H10O
